US07576115B2
Synthesis of 4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-nitrobenzoic acid
From methyl 4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-nitrobenzoate (0.40 mmol, 200 mg) and 1 M sodium hydroxide aqueous solution (1.98 mL, 1.98 mmol), 130.5 mg of the desired product was obtained in the same manner as in Synthetic Example 58 as a yellow solid (yield 67%).

reactant | methyl 4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-nitrobenzoate | 0.40 mmol, 200 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-])O | C21H17Cl2N5O6
reactant | sodium hydroxide | 1.98 mmol, 1 M, 1.98 mL | [OH-].[Na+]
product | 4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-nitrobenzoic acid | 130.5 mg | ClC=1C=C(C=CC1Cl)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])O | C20H15Cl2N5O6
